* C:\Users\lucasp\Projects\CMOS-project\edge-triggered_PWM_generator.asc
* Generated by LTspice 26.0.1 for Windows.
I1 input 0 {Iref}
V1 VDD 0 3.3 Rser=0
R1 input 0 10G
V2 CLK 0 PULSE(0 3.3 1u 1n 1n 5u 10u) Rser=0
C_load output 0 2p
X§X1 N004 CLK edge_sig VDD 0 my_xor
X§X2 CLK N001 VDD 0 my_inverter
X§X3 N001 N002 VDD 0 my_inverter
X§X4 N002 N003 VDD 0 my_inverter
X§X5 N003 N004 VDD 0 my_inverter
C1 N001 0 20f
C2 N002 0 20f
C3 N003 0 20f
C4 N004 0 20f
X§X7 st_sig N005 VDD 0 my_inverter
X§X6 edge_sig input st_sig VDD 0 my_sawtooth_gen
X§X8 N006 edge_sig NC_01 weak_pwm VDD 0 my_sr_latch
X§X9 N005 N006 VDD 0 my_inverter
V4 _reset 0 PWL(0 0 1.1u 0 1.110u 3.3 1000m 3.3)
X§X10 _reset CLK 180deg_CLK 270deg_CLK 90deg_CLK VDD 0 my_dll

* block symbol definitions
.subckt my_xor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=1u
M2 OUT A N003 VSS NMOS_SME l=0.35u w=0.4u
X§U1 A NOT_A VDD VSS my_inverter
X§U2 B NOT_B VDD VSS my_inverter
M3 N001 NOT_B OUT VDD PMOS_SME l=0.35u w=1u
M4 VDD B N002 VDD PMOS_SME l=0.35u w=1u
M5 N002 NOT_A OUT VDD PMOS_SME l=0.35u w=1u
M6 N003 B VSS VSS NMOS_SME l=0.35u w=0.4u
M7 OUT NOT_A N004 VSS NMOS_SME l=0.35u w=0.4u
M8 N004 NOT_B VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_xor

.subckt my_inverter IN OUT VDD VSS
M3 VDD IN OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT IN VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_inverter

.subckt my_sawtooth_gen IN IREF OUT VDD VSS
M1 VDD IREF OUT VDD PMOS_SME l=2u w=0.4u
C1 OUT VSS 272.7f
M2 OUT IN VSS VSS NMOS_SME l=0.35u w=1.8u
M3 VDD IREF IREF VDD PMOS_SME l=2u w=4u
.inc library.mod
.ends my_sawtooth_gen

.subckt my_sr_latch R S NOT_Q Q VDD VSS
X§X1 S Q NOT_Q VDD VSS my_nor
X§X2 NOT_Q R Q VDD VSS my_nor
.inc library.mod
.ends my_sr_latch

.subckt my_dll _RESET CLK 180degCLK 270degCLK 90degCLK VDD VSS
X§X1 feedback_clk CLK down up VDD VSS _RESET my_pfd
X§X3 down up vctrl VDD VSS my_cp
M1 vctrl rst_h VSS VSS NMOS_SME l=0.35u w=0.4u
X§X2 _RESET rst_h VDD VSS my_inverter
X§X4 CLK vctrl 180clk 270clk 90clk feedback_clk VDD VSS my_vcdl
X§X6 90clk 90degCLK VDD VSS my_schmitt_trigger
X§X7 180clk 180degCLK VDD VSS my_schmitt_trigger
X§X8 270clk 270degCLK VDD VSS my_schmitt_trigger
M2 VSS vctrl VSS VSS NMOS_SME l=10u w=22u
.inc library.mod
.ends my_dll

.subckt my_nor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=0.4u
M2 N001 B OUT VDD PMOS_SME l=0.35u w=0.4u
M3 OUT B VSS VSS NMOS_SME l=0.35u w=0.4u
M4 OUT A VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nor

.subckt my_pfd FDBCK REF DOWN UP VDD VSS _RESET
X§X1 VDD REF N001 NC_01 UP VDD VSS DFRRLHDX1
X§X2 VDD FDBCK N001 NC_02 DOWN VDD VSS DFRRLHDX1
X§X3 UP DOWN reset VDD VSS my_nand
X§X4 _RESET reset N001 VDD VSS my_and
.inc library.mod
.ends my_pfd

.subckt my_cp DOWN UP OUT VDD VSS
M1 VDD N001 N002 VDD PMOS_SME l=5u w=0.8u
M2 OUT DOWN N004 VSS NMOS_SME l=0.35u w=0.4u
M3 N002 N003 OUT VDD PMOS_SME l=0.35u w=0.4u
M4 N004 iref VSS VSS NMOS_SME l=5u w=0.4u
M5 VDD N001 N001 VDD PMOS_SME l=2u w=4u
M6 N001 iref VSS VSS NMOS_SME l=2u w=2u
M7 iref iref VSS VSS NMOS_SME l=2u w=2u
X§X1 UP N003 VDD VSS my_inverter
M8 VDD VSS iref VDD PMOS_SME l=100u w=0.4u
.inc library.mod
.ends my_cp

.subckt my_vcdl REF_CLK V_CTRL 180_CLK 270_CLK 90_CLK OUT_CLK VDD VSS
M9 VDD VBP VBP VDD PMOS_SME l=2u w=2u
M10 VBP V_CTRL VSS VSS NMOS_SME l=2u w=0.4u
X§X1 REF_CLK N001 VDD VSS VBP VBN my_current_starved_inverter
X§X2 90_CLK N003 VDD VSS VBP VBN my_current_starved_inverter
X§X3 180_CLK N005 VDD VSS VBP VBN my_current_starved_inverter
X§X4 270_CLK N007 VDD VSS VBP VBN my_current_starved_inverter
X§X5 N001 N002 VDD VSS VBP VBN my_current_starved_inverter
X§X6 N003 N004 VDD VSS VBP VBN my_current_starved_inverter
X§X7 N005 N006 VDD VSS VBP VBN my_current_starved_inverter
X§X8 N007 N008 VDD VSS VBP VBN my_current_starved_inverter
M1 N_REF N011 VSS VSS NMOS_SME l=2u w=4u
M2 N_REF N_REF VSS VSS NMOS_SME l=2u w=1u
M3 N010 N_REF VSS VSS NMOS_SME l=2u w=1u
M5 VDD N_REF N_REF VDD PMOS_SME l=2u w=0.4u
M6 VDD N_REF N009 VDD PMOS_SME l=2u w=2u
X§X9 N002 90_CLK VDD VSS my_schmitt_trigger
X§X10 N004 180_CLK VDD VSS my_schmitt_trigger
X§X11 N006 270_CLK VDD VSS my_schmitt_trigger
X§X12 N008 OUT_CLK VDD VSS my_schmitt_trigger
C1 N002 VSS 500f
C2 N004 VSS 500f
C3 N006 VSS 500f
C4 N008 VSS 500F
C5 N001 VSS 500f
C6 N003 VSS 500f
C7 N005 VSS 500F
C8 N007 VSS 500f
M11 VBN VBN VSS VSS NMOS_SME l=2u w=0.4u
M12 VDD VBP VBN VDD PMOS_SME l=2u w=2u
.inc library.mod
.ends my_vcdl

.subckt my_schmitt_trigger IN OUT VDD VSS
M1 VDD IN N001 VDD PMOS_SME l=0.35u w=2u
M2 n_inv IN N002 VSS NMOS_SME l=0.35u w=1u
M3 N001 IN n_inv VDD PMOS_SME l=0.35u w=2u
M4 N002 IN VSS VSS NMOS_SME l=0.35u w=1u
M5 VSS n_inv N001 VDD PMOS_SME l=0.35u w=0.8u
M6 N002 n_inv VDD VSS NMOS_SME l=0.35u w=0.4u
X§X1 n_inv OUT VDD VSS my_inverter
.inc library.mod
.ends my_schmitt_trigger

.subckt DFRRLHDX1 D C RN QN Q VDD VSS
M1 vdd D N001 vdd PMOS_SME l=350n w=1u
M2 N001 CI MQIB vdd PMOS_SME l=350n w=1u
M3 MQIB CIB N005 vss NMOS_SME l=350n w=700n
M4 N005 D N010 vss NMOS_SME l=350n w=700n
M5 vdd MQI N002 vdd PMOS_SME l=350n w=500n
M6 N002 CIB MQIB vdd PMOS_SME l=350n w=500n
M7 MQIB CI N006 vss NMOS_SME l=350n w=500n
M8 N006 MQI N010 vss NMOS_SME l=350n w=500n
M9 N010 RN vss vss NMOS_SME l=350n w=700n
M10 vdd RN MQIB vdd PMOS_SME l=350n w=1u
M11 vdd MQIB MQI vdd PMOS_SME l=350n w=1u
M12 MQI MQIB vss vss NMOS_SME l=350n w=700n
M13 vdd MQI N003 vdd PMOS_SME l=350n w=900n
M14 N003 CIB SQIB vdd PMOS_SME l=350n w=900n
M15 SQIB CI N007 vss NMOS_SME l=350n w=700n
M16 N007 MQI N009 vss NMOS_SME l=350n w=700n
M17 vdd SQI N004 vdd PMOS_SME l=350n w=500n
M18 N004 CI SQIB vdd PMOS_SME l=350n w=500n
M19 SQIB CIB N008 vss NMOS_SME l=350n w=500n
M20 N008 SQI N011 vss NMOS_SME l=350n w=500n
M21 N011 RN vss vss NMOS_SME l=350n w=550n
M22 vdd RN SQIB vdd PMOS_SME l=350n w=1u
M23 vdd SQIB SQI vdd PMOS_SME l=350n w=1u
M24 SQI SQIB vss vss NMOS_SME l=350n w=700n
M25 N009 RN vss vss NMOS_SME l=350n w=700n
M26 vdd C CIB vdd PMOS_SME l=350n w=1u
M27 CIB C vss vss NMOS_SME l=350n w=700n
M28 vdd CIB CI vdd PMOS_SME l=350n w=1u
M29 CI CIB vss vss NMOS_SME l=350n w=700n
M32 vdd SQIB Q vdd PMOS_SME l=350n w=1u
M33 Q SQIB vss vss NMOS_SME l=350n w=700n
M34 vdd SQI QN vdd PMOS_SME l=350n w=1u
M35 QN SQI vss vss NMOS_SME l=350n w=700n
.ends DFRRLHDX1

.subckt my_nand A B OUT VDD VSS
M1 N001 B VSS VSS NMOS_SME l=0.35u w=0.4u
M2 VDD A OUT VDD PMOS_SME l=0.35u w=0.4u
M3 VDD B OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT A N001 VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nand

.subckt my_and A B OUT VDD VSS
X§X1 A B N001 VDD VSS my_nand
X§X2 N001 OUT VDD VSS my_inverter
.inc library.mod
.ends my_and

.subckt my_current_starved_inverter IN OUT VDD VSS VBP VBN
M3 N002 IN OUT VDD PMOS_SME l=0.35u w=1.2u
M4 OUT IN N003 VSS NMOS_SME l=0.35u w=0.4u
M1 N001 VBP N002 VDD PMOS_SME l=2u w=2u
M2 N003 VBN N004 VSS NMOS_SME l=2u w=0.4u
M5 N004 VBN VSS VSS NMOS_SME l=2u w=0.4u
M6 VDD VBP N001 VDD PMOS_SME l=2u w=2u
.inc library.mod
.ends my_current_starved_inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
.param Iref 5uA
.inc library.mod
.tran 0 300u 0 200n
* Edge-triggered Pulse-Width Modulation (PWM) generator
* rise/fall time (10% -> 90%)\nshould be below 10 ns
* Sweep Iref in {1uA, 3uA, 5uA, 7uA, 9uA}
* Explain which electrical parameters define the output pulse-width
* 100kHz input clock
* Lucas Placentino 2026
* 1. edge detector (both rising and falling)
* 2. current-controlled sawtooth signal generator, thresholded, then through an S-R latch => weak PWM signal
* SR latch
* 3. buffer chain...
* Input clock (100kHz)
* Perfect voltage \nsource (3.3V)
* Capacitive load at output (2pF)
* Input reference \ncurrent (1 to 9uA)
* 90° phase shift based on delay-locked loop (DLL)
* custom\nDLL
* EXTRA FEATURES
* "include an asynchronous active low reset (via an additional voltage source which is either high (3.3V) or low (0V) over time)"
* use the inverter's\n1.65V threshold
* LOW for 5u then HIGH indefinitely
.backanno
.end
